US07592358B2
50.5f. 5-(4-chlorophenyl)-2-{3-methyl-4-[2-(4-methylpiperidin-1-yl)ethyl]phenylethynyl}pyridine
0.09 mL (0.77 mmol) of 4-methylpiperidine was added to a solution of 110 mg (0.26 mmol) of 2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-methylphenyl}ethyl methanesulfonate in 2 mL of DMF and heated to 69° C. After the reaction had ended, the reaction solution was cooled and the precipitate formed was suction filtered. Yield: 40 mg (36% of theoretical); C28H29ClN2 (M=428.996) C28H29ClN2; calc.: molpeak (M+H)+:429/431 (Cl); found: molpeak (M+H)+:429/431 (Cl); HPLC-MS: 5.96 minutes (method G).

reactant | 4-methylpiperidine | 0.77 mmol, 0.09 mL | CC1CCNCC1 | C6H13N
reactant | 2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-methylphenyl}ethyl methanesulfonate | 0.26 mmol, 110 mg | CS(=O)(=O)OCCC1=C(C=C(C=C1)C#CC1=NC=C(C=C1)C1=CC=C(C=C1)Cl)C | C23H20ClNO3S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-(4-chlorophenyl)-2-{3-methyl-4-[2-(4-methylpiperidin-1-yl)ethyl]phenylethynyl}pyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC(=C(C=C1)CCN1CCC(CC1)C)C | C28H29ClN2
